US05051509
A suspension of (S)-3-aminopiperidine (4.0 g) obtained as described in the step (c) above 1-cyclopropyl-6,7,8-trifluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid(11.4 g) and triethylamine (8.4 g) in acetonitrile (250 ml) was refluxed for 3 hours with stirring. Then the mixture was cooled down and filtrationof the precipitated powder followed by treatment with a mixture of ethanol (550 ml) and water (250 ml) gave (S)-7-(3-aminopiperidin-1-yl)-1-cyclopropyl-6,8-difluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid (11.6 g) as colorless needles. m.p. 247.8° C. (decomposition).

reactant | (S)-3-aminopiperidine | 4.0 g | N[C@@H]1CNCCC1 | C5H12N2
reactant | 1-cyclopropyl-6,7,8-trifluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | 11.4 g | C1(CC1)N1C=C(C(C2=CC(=C(C(=C12)F)F)F)=O)C(=O)O | C13H8F3NO3
reactant | triethylamine | 8.4 g | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 250 ml | C(C)#N | C2H3N
product | (S)-7-(3-aminopiperidin-1-yl)-1-cyclopropyl-6,8-difluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | 11.6 g | N[C@@H]1CN(CCC1)C1=C(C=C2C(C(=CN(C2=C1F)C1CC1)C(=O)O)=O)F | C18H19F2N3O3
